Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
Hyperkalemia
 
Major Surgical or Invasive Procedure:
___: Ureteral Stent removal

 
History of Present Illness:
___ PKD-ESRD HCV+ s/p cadaveric kidney transplant from high risk 
donor ___ has been off HD for ~ 2 wks now with 
hyperkalemia. Patient had routine labs today which demonstrated 
a potassium of 6.8 (per report, no labs are with the patient).  
He was sent to the ED.  EKG demonstrated peak T waves in the 
anterior leads.  He was treated medically with calcium, insulin 
and kayexelate.  Nephrology and transplant were consulted.  
Patient reports making ___ cc of urine a day.  He remained on 
HD after his transplant but reports being off HD for ~ 2 weeks 
now.  He still has a tunneled HD line.  He is otherwise 
asymptomatic.  Denies chest pain, SOB, fevers, chills, nausea,
emesis, diarrhea, constipation.  Denies burning with urination.

 
Past Medical History:
ESRD (dialysis since ___, (PD ___ complicated by 
recurrent peritonitis, failed LUE AV fistula ___ now s/p 
kidney transplant ___ 
Polycystic kidney disease s/p right nephrectomy ___ 
Hypertension ___ years 
Hepatitis C dx ___ s/p failed interferon treatment ___ 

L5-S1 discitis, osteomyelitis, epidural abscess ___ 
enterococcus bacteremia, treated with 10 days of 
ampicillin/gentamycin 
Endocarditis (___) 
Hyperparathyroidism, s/p subtotal parathyroidectomy ___, 
revision ___ s/p thyroid lobectomy 
Gout (questionable diagnosis but on treatment) 
Carotid stenosis 
Restless leg syndrome 
Depression 
Chronic pain syndrome 

 
Social History:
___
Family History:
Mother - diagnosed with DM in her ___
Father - died of drugs and alcohol and pancreatic cancer at ___
3 of 4 or ___ healthy brother
2 children (estranged) - ___nd healthy ___ yo
 
Physical Exam:
VS: afvss
Gen: NAD, AOx3
___: RRR
Pulm: no disress
Abd: S/NT/ND Incision healing well, no drainage, erythema or
fluctuance.  
___: no LLE
Chest: R chest with tunneled HD line, site clean no erythema or
fluctuance

 
Pertinent Results:
On Admission: ___
WBC-3.4*# RBC-3.21*# Hgb-10.0*# Hct-32.1*# MCV-100* MCH-31.2 
MCHC-31.2 RDW-15.7* Plt ___ PTT-34.6 ___
Glucose-105* UreaN-41* Creat-3.7*# Na-135 K-6.5* Cl-111* 
HCO3-17* AnGap-14
Calcium-11.3* Phos-1.7*# Mg-2.0
At Discharge: ___ 
WBC-3.2* RBC-3.28* Hgb-10.2* Hct-32.5* MCV-99* MCH-31.2 
MCHC-31.5 RDW-15.8* Plt ___
Glucose-112* UreaN-33* Creat-3.5* Na-141 K-5.4* Cl-108 HCO3-26 
AnGap-12
Calcium-10.6* Phos-3.5 Mg-2.2
.
Cholesterol and Triglycerides pending at discharge
 
Brief Hospital Course:
___ y/o male s/p kidney transplant on ___ with delayed graft 
function, off HD for 2 weeks who now presents through the ED 
from ___ with hyperkalemia. 
The patient underwent transplant kidney ultrasound, findings 
were normal vascular waveforms and resistive indices, no 
hydronephrosis.
He was treated medically with insulin, dextrose, bicarb, 
calcium, and also received kayexalate for the admission 
potassium. EKG done on admission showed peaked T waves.
He was placed on telemetry and transferred to the surgical 
floor.
Repeat potassium was 5.2
Nephrology was consulted who recommended discontinuing Bactrim
The following day the potassium was again 6.5. This was 
medically treated, and patient received further doses of 
Kayexalate.
On ___, the urology service came by to d/c the ureteral stent 
placed at time of kidney transplant.
Due to continued hyperkalemia, the patient will be converted to 
Sirolimus (Rapamycin) as Prograf can cause hyperkalemia. The 
patient will be discharged on both agents, follow up potassium 
tomorrow, and full labs with trough Prograf and sirolimus levels 
on ___.
Patient received pentamidine inhalation on ___

 
Medications on Admission:
Tacro 8'' (per pt), MMF 250'',  Allopurinol ___ mg',
amitriptyline 50 mg qhs, metoprolol 25 mg'', morphine SR 30 

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  
2. allopurinol ___ mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
3. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation.  
4. morphine 30 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO Q12H (every 12 hours).  
5. ropinirole 1 mg Tablet Sig: One (1) Tablet PO QPM (once a day 
(in the evening)).  
6. valganciclovir 450 mg Tablet Sig: One (1) Tablet PO 2X/WEEK 
(___).  
7. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
8. mycophenolate mofetil 250 mg Capsule Sig: One (1) Capsule PO 
BID (2 times a day).  
9. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
10. tacrolimus 1 mg Capsule Sig: Four (4) Capsule PO twice a 
day.  
11. sodium polystyrene sulfonate 15 g/60 mL Suspension Sig: 
Thirty (30) grams PO As directed as needed for hyperkalemia.  
12. pentamidine 300 mg Recon Soln Sig: Three Hundred (300) mg 
Inhalation once a month: Monthly Inhalation. First dose ___.  
13. sirolimus 1 mg Tablet Sig: Six (6) Tablet PO DAILY (Daily): 
First dose given ___.  
14. Lasix 20 mg Tablet Sig: ___ Tablet PO once a day.  
15. Neupogen 300 mcg/0.5 mL Syringe Sig: One (1) dose Injection 
As directed as needed for neutropenia: As needed for 
neutropenia.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hyperkalemia
s/p kidney transplant with delayed graft function

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. 

 
Discharge Instructions:
Please call the transplant clinic at ___ for fever > 
101, chills, nausea, vomiting, diarrhea, constipation, decreased 
urine output, dysuria, hematuria, pain over kidney graft, easy 
bruising, inability to tolerate food fluids or medications, 
increased cough or sputum production
.
Patient being converted off prograf and starting Sirolimus 
(Rapamycin) as prograf can cause hyperkalemia. Additionally, 
Bactrim is being held and he will start pentamadine inhalation 
treatments for PCP ___.
Please have neupogen available as Sirolimus may cause 
pancytopenia, and he has already been neutropenic.
The patient should avoid lifting greater than 10 pounds
The dialysis catheter will remain in place, and need will be 
re-assessed at next transplant kidney appointment due to history 
of delayed graft function in the new kidney transplant.
.
Labs are recommended as follows:
___ Potassium only
___ Full labs to include chem 10, AST,  t bili, CBC, 
Trough Prograf, Trough Sirolimus (___), urinalysis.
Please fax results to Transplant clinic at ___
.
Patient may take kayexalate PRN for hyperkalemia
He should avoid potassium containing foods to include, potatoes, 
tomatoes (and sauce), orange juice, citrus, bananas, dark green 
vegetables (broccoli, kale, spinach) nuts and chocolate. Dietary 
restrictions will be reassessed once hyperkalemia is resolved.
.
Start on 10 mg lasix PO daily
.
Patient has received first Pentamadine treatment on ___, this 
should be given as inhalation once monthly and Bactrim has been 
d/c'd. This may be re-evaluated once ___ conversion is complete 
and if hyperkalemia resolves.
.
Ureteral stent has been removed from time of kidney transplant
 
Followup Instructions:
___